US05614633
To a mixture of 0.20 g of 6-cyano-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran-4-one, 3.09 g of dimethylaminopyridine and 12 ml of dry methylene chloride was added dropwise 0.35 ml of trifluoromethanesulfonic anhydride with stirring under ice-cooling. The mixture was stirred under ice-cooling for 15 minutes and then stirred at room temperature for 1 hour. .Water was added thereto and the mixture was extracted with methylene chloride. After the organic layer was washed with water and dried, the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, CH2Cl2 :hexane=1:1) to obtain 0.12 g of oily 6-cyano-4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-2H-1-benzopyran represented by the following formula.

reactant | 6-cyano-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran-4-one | 0.20 g | C(#N)C=1C=CC2=C(C(CC(O2)(CF)CF)=O)C1 | C12H9F2NO2
reactant | dimethylaminopyridine | 3.09 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
reactant | trifluoromethanesulfonic anhydride | 0.35 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | Water | O | H2O
product | 6-cyano-4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-2H-1-benzopyran | 0.12 g | C(#N)C=1C=CC2=C(C(=CC(O2)(CF)CF)OS(=O)(=O)C(F)(F)F)C1 | C13H8F5NO4S
